US09403773B2
Sodium hydride (60% in oil, 76 mg, 1.9 mmol) was added to a DMF solution (10 ml) of 5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one (400 mg, 1.22 mmol). The mixture was stirred at room temperature for 15 minutes. Methyl iodide (225 mg, 1.6 mmol) was added thereto, and then the resulting mixture was stirred at room temperature for 19 hours. Water and ethyl acetate were added to the reaction mixture to separate the mixture into two layers. The organic layer was washed with water, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was then purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1). The purified product was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate to thereby obtain 365 mg of powdery pale yellow 5-fluoro-3-(4-methoxyphenyl)-1-methyl-8-propoxy-1H-quinolin-4-one (yield: 72%).

reactant | Sodium hydride | 1.9 mmol, 76 mg | [H-].[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one | 1.22 mmol, 400 mg | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=CC=C(C=C1)OC)=O | C19H18FNO3
reactant | Methyl iodide | 1.6 mmol, 225 mg | CI | CH3I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 5-fluoro-3-(4-methoxyphenyl)-1-methyl-8-propoxy-1H-quinolin-4-one | 365 mg, yield: 72% | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)C)C1=CC=C(C=C1)OC)=O | C20H20FNO3
